US07943634B2
Step 8: Methyl-7-cyclopentyloxy-2-bromomethylbenzo[b]furan-4-carboxylate
To a well stirred refluxing solution of AIBN (500 mg) and N-bromosuccinimide (30.5 g, 0.171 moles) in carbon tetrachloride (500 mL) was added a Methyl-7-cyclopentyloxy-2-methylbenzo[b]furan-4-carboxylate (43.0 g, 0.151 moles) and refluxed for 2-3 hours. Reaction mixture was cooled to room temperature and filtered thorough Celite bed. The filtrate was concentrated under vacuo to give product (3.1 g) as brown oil. The product obtained (50.0 g) was taken ahead for next step without further purification.

reactant | AIBN | 500 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | N-bromosuccinimide | 0.171 moles, 30.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Methyl-7-cyclopentyloxy-2-methylbenzo[b]furan-4-carboxylate | 0.151 moles, 43.0 g | COC(=O)C1=CC=C(C=2OC(=CC21)C)OC2CCCC2 | C16H18O4
solvent | carbon tetrachloride | 500 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl-7-cyclopentyloxy-2-bromomethylbenzo[b]furan-4-carboxylate | 3.1 g | COC(=O)C1=CC=C(C=2OC(=CC21)CBr)OC2CCCC2 | C16H17BrO4
